*
*******************************************
*
*BAW56
*
*NXP Semiconductors
*
*High-speed switching diode 
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 90V
*IFRM = 500mA @ tp = 
*trr  = 4ns
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT23
*
*Package Pin 1: Cathode      D1 
*Package Pin 2: Cathode      D2
*Package Pin 3: common Anode 
*
*
*
*Simulator: SPICE3
*
*******************************************
*#
* Please note: This device is an array and the
* symbol has to be placed twice on the schematic
*
.SUBCKT BAW56 1 2
* 
* The resistor R1 does not reflect 
* a physical device.  Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 2.3E+9
D1 1 2 BAW56
*
.MODEL BAW56 D
+ IS = 1.705E-9
+ N = 1.71
+ BV = 87
+ IBV = 0.0003
+ RS = 1.022
+ CJO = 1.798E-12
+ VJ = 1.032
+ M = 0.2987
+ FC = 0.5
+ TT = 3.606E-9 
.ENDS
*

